US07666879B2
B. 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazole-1-sulfonic acid dimethylamide
Combine pyrazole-1-sulfonic acid dimethylamide (7.0 g, 23.2 mmol), potassium acetate (6.3 g, 69.8 mmol), bis(pinacolato)diboron (6.5 g, 25.5 mmol), and DMSO (140 mL) and de-gas under a stream of nitrogen. Add PdCl2(dppf).CH2Cl2 (0.51 g, 0.70 mmol and heat the reaction to 80° C. overnight. Dilute the reaction with water and extract with ethyl acetate. Wash the combined organics with water and dry over anhydrous MgSO4, filter and concentrate. Use the title compound contaminated by a 33% impurity of the bipyrazole as a mixture.

reactant | pyrazole-1-sulfonic acid dimethylamide | 23.2 mmol, 7.0 g | CN(S(=O)(=O)N1N=CC=C1)C | C5H9N3O2S
reactant | potassium acetate | 69.8 mmol, 6.3 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 25.5 mmol, 6.5 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DMSO | 140 mL | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazole-1-sulfonic acid dimethylamide | CN(S(=O)(=O)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)C | C11H20BN3O4S
